US07700779B2
To a solution of a mixture of methyl 4-[4-[4-(hydroxydiphenylmethyl)1-piperidinyl]-1-oxobutyl]-α,α-dimethylbenzeneacetate hydrochloride and methyl 3-[4-[4-(hydroxydiphenylmethyl)1-piperidinyl]-1-oxobutyl]-α,α-dimethylbenzeneacetate hydrochloride (100 g) in methanol (600 ml) is added aqueous sodium hydroxide (36.4 g sodium hydroxide in 132 ml of water). The mixture is heated to reflux for about 2-4 hours. Completion of the reaction is monitored by TLC method and upon completion the reaction mixture is cooled to ambient temperature accompanied by addition of sodium borohydride (6.8 g). The reaction mixture is heated to 50-60° C. and maintained at the same temperature for about 14 hours (completion of the reaction is monitored by TLC method), and subsequently cooled to ambient temperature accompanied by carbon treatment. The clear filtrate obtained after carbon treatment, is stripped of methanol followed by addition of water (300 ml) and acetone (200 ml). The pH of the reaction mixture is then adjusted to ˜6 with acetic acid, stirred for 5 hours and then filtered, followed by water wash (200 ml) to afford crude Fexofenadine.

reactant | methyl 4-[4-[4-(hydroxydiphenylmethyl)1-piperidinyl]-1-oxobutyl]-α,α-dimethylbenzeneacetate hydrochloride | Cl.OC(C1CCN(CC1)CCCC(=O)C1=CC=C(C=C1)C(C(=O)OC)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | methyl 3-[4-[4-(hydroxydiphenylmethyl)1-piperidinyl]-1-oxobutyl]-α,α-dimethylbenzeneacetate hydrochloride | 100 g | Cl.OC(C1CCN(CC1)CCCC(=O)C=1C=C(C=CC1)C(C(=O)OC)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | sodium hydroxide | 132 ml, 36.4 g | [OH-].[Na+]
reactant | sodium borohydride | 6.8 g | [BH4-].[Na+]
solvent | methanol | 600 ml | CO | CH4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetone | 200 ml | CC(=O)C | C3H6O
solvent | water | 300 ml | O | H2O
product | Fexofenadine | CC(C)(C=1C=CC(=CC1)C(CCCN2CCC(CC2)C(C=3C=CC=CC3)(C=4C=CC=CC4)O)O)C(=O)O | C32H39NO4
